US08937150B2
(2S,4S)-1-(tert-butoxycarbonyl)-4-(tert-butyldimethylsilyloxy)pyrrolidine-2-carboxylic acid
(2S,4S)-1-(tert-Butoxycarbonyl)-4-hydroxypyrrolidine-2-carboxylic acid (5.31 g, 22.96 mmol) and imidazole (7.82 g, 115 mmol) were combined in dichloromethane (106 mL) and dimethylformamide (22 mL) at ambient temperature and treated with portionwise addition of tert-butylchlorodimethylsilane (7.61 g, 50.5 mmol). The mixture was stirred for 18 hours then diluted with water and extracted into ethyl acetate and concentrated to provide the title compound.

reactant | (2S,4S)-1-(tert-Butoxycarbonyl)-4-hydroxypyrrolidine-2-carboxylic acid | 22.96 mmol, 5.31 g | C(C)(C)(C)OC(=O)N1[C@@H](C[C@@H](C1)O)C(=O)O | C10H17NO5
reactant | imidazole | 115 mmol, 7.82 g | N1C=NC=C1 | C3H4N2
reactant | dimethylformamide | 22 mL | CN(C=O)C | C3H7NO
reactant | tert-butylchlorodimethylsilane | 50.5 mmol, 7.61 g | C(C)(C)(C)[Si](C)(C)Cl | C6H15ClSi
solvent | dichloromethane | 106 mL | ClCCl | CH2Cl2
solvent | water | O | H2O
product | (2S,4S)-1-(tert-butoxycarbonyl)-4-(tert-butyldimethylsilyloxy)pyrrolidine-2-carboxylic acid | C(C)(C)(C)OC(=O)N1[C@@H](C[C@@H](C1)O[Si](C)(C)C(C)(C)C)C(=O)O | C16H31NO5Si
